US20010011086A1
Preparation of 4-Hydroxy-9-Carbomethoxymethyl-Fluorene
A stirred mixture of 401 mg (2 mmol) of 4-hydroxy-fluoren-9-one and 1.37 g (4.1 mmol) of methyl-(triphenylphosphoranylidene)-acetate in 10 mL of toluene was refluxed under an atmosphere of nitrogen for 65.5 hours. The cooled reaction mixture was evaporated and the residue purified by plate layer chromatography using CH2Cl2-EtOAc (50:1) as eluant to give 433 mg of the title compound as a mixture of isomers.

reactant | 4-hydroxy-fluoren-9-one | 2 mmol, 401 mg | OC1=CC=CC=2C(C3=CC=CC=C3C12)=O | C13H8O2
reactant | methyl-(triphenylphosphoranylidene)-acetate | 4.1 mmol, 1.37 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Hydroxy-9-Carbomethoxymethyl-Fluorene | 433 mg | OC1=CC=CC=2C(C3=CC=CC=C3C12)CC(=O)OC | C16H14O3
